US06342765B1
A solution of methyl 2-(4-fluorophenyl)-4-methylbenzoate (54.18 g; 0.22 mol), N-bromosuccinimide (39.6 g; 0.22 mol), 2,2′-azobis(2-methylproprionitrile) (0.25 g; 1.5 mmol) and benzoylperoxide (0.25 g; 1 mmol) in tetrachloromethane (550 ml) was heated at reflux for 6 hours. The solid was filtered and the filtrate evaporated to give methyl 4-bromomethyl-2-(4-fluorophenyl)benzoate as an oil (79.7 g; 79%) which was used in the next step without purification.

reactant | methyl 2-(4-fluorophenyl)-4-methylbenzoate | 0.22 mol, 54.18 g | FC1=CC=C(C=C1)C1=C(C(=O)OC)C=CC(=C1)C | C15H13FO2
reactant | N-bromosuccinimide | 0.22 mol, 39.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylproprionitrile) | 1.5 mmol, 0.25 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | benzoylperoxide | 1 mmol, 0.25 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | tetrachloromethane | 550 ml | ClC(Cl)(Cl)Cl | CCl4
product | methyl 4-bromomethyl-2-(4-fluorophenyl)benzoate | BrCC1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F | C15H12BrFO2
